* D:\Elsys\uz_d_inverter\LTSpice_Simulation\CurrMeas.asc
XU1 N003 N005 N002 N004 5v 0 o+ o- N001 5v ADA4940
V1 5v 0 5
V2 i+ 0 SINE(2.5 2 50)
R3 o- o+ 1k
R4 N003 N002 2k
C2 N003 N002 22p
R5 N005 N004 2k
C3 N005 N004 22p
C1 0 N001 1µ
R6 N002 i+ 1k
R7 N004 N006 1k
V3 N006 0 2.5
.tran 20m
* .ac dec 100 1 100k
.lib ADA4940.lib
.backanno
.end
